* source TLV76701_TRANS
C_C1         0 OUT  2.2u  TC=0,0 
C_C2         0 VIN  1u  TC=0,0 
R_RLOAD         OUT 0  33 TC=0,0 
V_V1         VIN 0  
+PULSE 0 5 200u 1u 1u 4m 2
R_R2         OUT FB  100k TC=0,0 
R_R3         FB 0  32k TC=0,0 
X_U1         VIN FB 0 VIN OUT TLV76701_TRANS
C_C3         0 VIN  100n  TC=0,0 
C_C4         0 OUT  100n  TC=0,0 
C_C5         FB OUT  10p  TC=0,0 
